US07060844B2
To a solution of phthalide (0.50 g, 3.73 mmol) in THF (13.0 ml) at −78° C. was added 1.0M LiHMDS in THF (3.9 ml). The reaction was stirred for 10 minutes, and then N,N-dimethylmethyleneammonium iodide (0.76 g, 4.10 mmol) was added in one portion. The resulting mixture was continuously stirred at −78° C. for another 15 minutes. The mixture was then allowed to warm to 0° C. and then quenched into very dilute HCl aqueous solution. The aqueous layer was adjusted to acidic pH with 4% HCl aqueous solution and washed with EtOAc. The aqueous layer was basified with saturated NaHCO3 aqueous solution and extracted with EtOAc. The combined organic layers were washed with water, brine, dried over anhydrous Na2SO4 and rotary evaporated to a light yellow oil. The oil was taken up in CHCl3, filtered to remove an insoluble impurity, and then chromatographed through silica gel column (CHCl3 to 2.5% MeOH/CHCl3 gradient) to afford 3-dimethylaminomethyl-3H-isobenzofuran-1-one as a clear oil (0.24 g, 33%).

reactant | phthalide | 3.73 mmol, 0.50 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | LiHMDS | 1.0M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N,N-dimethylmethyleneammonium iodide | 4.10 mmol, 0.76 g | [I-].CC=[N+]=CC
solvent | THF | 13.0 ml | C1CCOC1 | C4H8O
solvent | THF | 3.9 ml | C1CCOC1 | C4H8O
product | 3-dimethylaminomethyl-3H-isobenzofuran-1-one | 0.24 g, 33% | CN(C)CC1OC(C2=CC=CC=C12)=O | C11H13NO2
